US05145843
7-chloro-4-[(4-fluorophenyl)methyl]quinoline
A solution of 100 g (740 mmol) of 4-fluorophenylacetonitrile in 200 ml of benzene was added to a cooled (0° C.) slurry of 40 g (945 mmol) of sodium amide in 600 ml of the same solvent. After the addition was complete the solution was warmed to ambient temperature and stirred for one-half hour. The reaction mixture was again cooled to 0° C., 73.2 g (370 mmol) of solid 4,7-dichloroquinoline was added in increments, and the mixture was then stirred at ambient temperature overnight. Quenching with NH4Cl followed by workup gave the crude disubstituted acetonitrile, which was dissolved in 500 ml of n-butanol saturated with anhydrous HCl. The acidic solution was heated at reflux for 18 hours. The majority of the solvent was removed via distillation, and the residue was diluted with solvent, and washed with 10% NaOH. The organic layer was dried, and the solvent was removed in vacuo. Purification via HPLC gave 67 g of the title product. Yield: 67%.

reactant | 4-fluorophenylacetonitrile | 740 mmol, 100 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | sodium amide | 945 mmol, 40 g | [NH2-].[Na+]
reactant | 4,7-dichloroquinoline | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | n-butanol | 500 ml | C(CCC)O | C4H10O
solvent | HCl | Cl | ClH
product | 7-chloro-4-[(4-fluorophenyl)methyl]quinoline | 67 g, Yield: 67% | ClC1=CC=C2C(=CC=NC2=C1)CC1=CC=C(C=C1)F | C16H11ClFN
